US05942515
In 48 ml of anhydrous DMF were dissolved 3.6 g of ethyl 7-chloro-6-(2-chloroethyl)pyrazolo[1,5-a]pyrimidine-5-carboxylate. While stirring at room temperature under a nitrogen atmosphere, 7.3 ml of cyclopentylamine were added to the solution, and the mixture was stirred for 1 hour and 20 minutes. The reaction mixture was poured into 250 ml of ice water. Insoluble matter was collected by filtration and air-dried to obtain 3.20 g (yield: 85.3%) of ethyl 8-cyclopentyl-6,7-dihydro-8H-pyrrolo[3,2-e]pyrazolo[1,5-a]-pyrimidine-5-carboxylate. While stirring at -5 to 0° C., 1.16 g of this product were gradually added to mixed acid prepared by mixing 7.8 ml of concentrated sulfuric acid and 3.9 ml of 90% nitric acid. After being stirred for 5 minutes under the same conditions, the reaction mixture was poured into 200 ml of ice water, followed by extraction with chloroform. After the chloroform layer was dried over anhydrous sodium sulfate, the solvent was then distilled off, and the residue was purified by column chromatography on silica gel (ethyl acetate:n-hexane=1:1) to obtain 0.76 g (yield: 57.0%) of Compound 21.

reactant | ethyl 7-chloro-6-(2-chloroethyl)pyrazolo[1,5-a]pyrimidine-5-carboxylate | 3.6 g | ClC1=C(C(=NC=2N1N=CC2)C(=O)OCC)CCCl | C11H11Cl2N3O2
reactant | cyclopentylamine | 7.3 ml | C1(CCCC1)N | C5H11N
solvent | DMF | 48 ml | CN(C)C=O | C3H7NO
product | ethyl 8-cyclopentyl-6,7-dihydro-8H-pyrrolo[3,2-e]pyrazolo[1,5-a]-pyrimidine-5-carboxylate | 3.20 g, yield: 85.3% | C1(CCCC1)N1CCC=2C(=NC=3N(C21)N=CC3)C(=O)OCC | C16H20N4O2
